US06537994B2
4-[3-(2-{4-[2-(2-Cyclopentyl-ethyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino) -2-hydroxy-propoxy]-1,3-dihydro-benzoimidazol-2-one
4-[2-(2-Cyclopentylethyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenethylamine (0.229 g, 0.68 mmol) was reacted with 4-[(2S)oxiranylmethoxy]-1,3-dihydro-2H-benzimidazol-2-one (0.141 g, 0.68 mmol) according to Procedure G (eluant: 20:1 going to 5:1 chloroform-methanol containing 1% ammonium hydroxide) to give the title compound (0.032 g, 0.059 mmol).

reactant | 4-[2-(2-Cyclopentylethyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenethylamine | 0.68 mmol, 0.229 g | C1(CCCC1)CCC1=NC=2C(=NC=CC2)N1C1=CC=C(CCN)C=C1 | C21H26N4
reactant | 4-[(2S)oxiranylmethoxy]-1,3-dihydro-2H-benzimidazol-2-one | 0.68 mmol, 0.141 g | O1[C@@H](C1)COC1=CC=CC=2NC(NC21)=O | C10H10N2O3
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-[3-(2-{4-[2-(2-Cyclopentyl-ethyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino) -2-hydroxy-propoxy]-1,3-dihydro-benzoimidazol-2-one | 0.059 mmol, 0.032 g | C1(CCCC1)CCC1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCNCC(COC1=CC=CC=2NC(NC21)=O)O | C31H36N6O3
